US09416310B2
C) 9,9-Bis(3-chloromethylphenyl)-9H-fluorene
20.0 g (52.9 mmol) of 9,9-bis-(3-hydroxymethylphenyl)-9H-fluorene are dissolved in 300 ml of DCM. A mixture of 16.0 ml of thionyl chloride in 100 ml of dichloromethane is added dropwise to the solution, and the mixture is subsequently stirred at room temperature until the evolution of gas is complete. The solution is washed three times with 200 ml of sat. sodium hydrogencarbonate solution each time and twice with 200 ml of water each time and then dried over magnesium sulfate. The oily residue obtained after removal of the solvent in vacuo is recrystallised twice from ethanol with addition of a little acetone. Yield: 16.0 g (38.5 mmol), 72.8%, about 97% pure according to 1H-NMR.

reactant | 9,9-bis-(3-hydroxymethylphenyl)-9H-fluorene | 52.9 mmol, 20.0 g | OCC=1C=C(C=CC1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC(=CC=C1)CO | C27H22O2
reactant | thionyl chloride | 16.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DCM | 300 ml | C(Cl)Cl | CH2Cl2
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 9,9-Bis(3-chloromethylphenyl)-9H-fluorene | ClCC=1C=C(C=CC1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC(=CC=C1)CCl | C27H20Cl2
